US09382254B2
Step (ii): 1H-Pyrazole-3-carboxylic acid(3-carbamoyl-thiophen-2-yl)-amide
A solution of 1H-Pyrazole-3-carbonyl chloride (5 mmol) in MeCN (5 mL) is added drop wise to a solution of 2-amino-thiophene-3-carboxylic acid amide (570 mg, 4 mmol), pyridine (0.5 mL, 6 mmol) and DMAP (25 mg, 0.20 mmol) in MeCN (5 mL). The resulting solution is than stirred at 60° C. over 2 days. Next, the mixture is quenched with aqueous NaHCO3. Evaporation of the MeCN gives a suspension that is filtered, the cake is dried, and used as such.

reactant | 1H-Pyrazole-3-carbonyl chloride | 5 mmol | N1N=C(C=C1)C(=O)Cl | C4H3ClN2O
reactant | 2-amino-thiophene-3-carboxylic acid amide | 4 mmol, 570 mg | NC=1SC=CC1C(=O)N | C5H6N2OS
reactant | pyridine | 6 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | DMAP | 0.20 mmol, 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 1H-Pyrazole-3-carboxylic acid(3-carbamoyl-thiophen-2-yl)-amide | C(N)(=O)C1=C(SC=C1)NC(=O)C1=NNC=C1 | C9H8N4O2S
